US05523400
Rac-[2-Oxo-1-(2,2,2-Trifluoroethyl)-Pyrrolidin-3-Yl]-Triphenyl-Phosphonium Bromide
189 g (0.77 Mol) rac-3-Bromo-1-(2,2,2-trifluoroethyl)-2-pyrrolidone were dissolved in 1 l toluene, and 222 g (0.85 Mol) triphenylphosphine were added. The mixture was refluxed over-night in an argon atmosphere, the product starting to precipitate. The mixture was then cooled to 5° C. and the slightly brownish crystals were filtered off. They were stirred twice in 1 l THF, filtered and dried in a vacuum at 50° C. Yield: 308 g (79%) colorless crystals 1H-NMR (3): δ[ppm]2.17 (m, 1 H); 3.2-3.5 (m, 3 H); 3.93 (dd, 1H); 4.24 m, 1H); 6.91 (m, 1H); 7.60-8.03 (arom., m, 15H). IR (KBr): 1690 cm-1 MS(ISP): 428.3 (M+)

reactant | rac-3-Bromo-1-(2,2,2-trifluoroethyl)-2-pyrrolidone | 0.77 Mol, 189 g | BrC1C(N(CC1)CC(F)(F)F)=O | C6H7BrF3NO
reactant | triphenylphosphine | 0.85 Mol, 222 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | Rac-[2-Oxo-1-(2,2,2-Trifluoroethyl)-Pyrrolidin-3-Yl]-Triphenyl-Phosphonium Bromide | [Br-].O=C1N(CCC1[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(F)(F)F | InChI=1S/C24H22F3NOP.BrH/c25-24(26,27)18-28-17-16-22(23(28)29)30(19-10-4-1-5-11-19,20-12-6-2-7-13-20)21-14-8-3-9-15-21;/h1-15,22H,16-18H2;1H/q+1;/p-1
